US05408013
As the polymerization initiator, organic peroxides such as 1,1-bis(t-butylperoxy)-3,3,5-trimethylcyclohexane, 1,1-bis(t-butylperoxy)cyclohexane, t-butylperoxy-3,3,5-trimethylhexanoate, t-butylperoxyisopropyl carbonate, 2,5-dimethyl-2,5-di(benzoylperoxy)hexane, t-butylperoxy benzoate, dicumylperoxide, 2,5-dimethyl-2,5-di(t-butyl peroxy)hexane, t-butylperoxy(2-ethylhexanoate), di-t-butyl hydroperoxide, t-butylperoctoate, benzoylperoxide, etc. are used. In order to obtain a superior surface quality in a usual molding time, t-butyl-peroxybenzoate alone or in an admixture with another compound is preferably used.

reactant | 1,1-bis(t-butylperoxy)-3,3,5-trimethylcyclohexane | C(C)(C)(C)OOC1(CC(CC(C1)C)(C)C)OOC(C)(C)C | C17H34O4
reactant | 1,1-bis(t-butylperoxy)cyclohexane | C(C)(C)(C)OOC1(CCCCC1)OOC(C)(C)C | C14H28O4
reactant | t-butylperoxy-3,3,5-trimethylhexanoate | C(C)(C)(C)OOC(C(=O)[O-])C(CC(C)C)(C)C
reactant | t-butylperoxyisopropyl carbonate | C(OC(C)(C)OOC(C)(C)C)([O-])=O
reactant | 2,5-dimethyl-2,5-di(benzoylperoxy)hexane | CC(C)(CCC(C)(OOC(C1=CC=CC=C1)=O)C)OOC(C1=CC=CC=C1)=O | C22H26O6
reactant | t-butylperoxy benzoate | C(C1=CC=CC=C1)(=O)OOOC(C)(C)C | C11H14O4
reactant | dicumylperoxide | C(C)(C)(C1=CC=CC=C1)OOC(C)(C)C1=CC=CC=C1 | C18H22O2
reactant | 2,5-dimethyl-2,5-di(t-butyl peroxy)hexane | CC(C)(CCC(C)(OOC(C)(C)C)C)OOC(C)(C)C | C16H34O4
reactant | t-butylperoxy(2-ethylhexanoate) | C(C)(C)(C)OOC(C(=O)[O-])(CCCC)CC
reactant | benzoylperoxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | t-butyl-peroxybenzoate | C(C)(C)(C)OOC(C1=CC=CC=C1)=O | C11H14O3
